US05925761
Ethyl 4-[1-hydroxy-4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]butyl]-α,α-dimethylbenzeneacetate (0.5 g) was dissolved in MeOH (10 mL), and sodium hydroxide solution (0.35 g, water 3 mL) was added. The reaction mixture was heated at reflux for 5 h, and cooled to 22° C., followed by the addition of acetic acid to reach a pH 4-5. MeOH (5 mL) was added to the solution and stirred for 1 h. The precipitate was collected by filtration to give 0.42 g of 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid. 1H NMR (DMSO-d6) d 1.45-1.49 (m, 2H), 1.67 (s, 6H), 1.67-1.78 (m, 6H), 2.12-2.20 (m, 2H), 2.45-2.50 (m, 2H), 2.68-2.78 (m 3H), 3.10 (broad s, 2H), 4.71 (m, 1H), 5.50 (broad s, 1H), 7.35-7.40 (m, 2H), 7.45-7.55 (m, 8H), 7.76-7.78 (m, 4H). MH+ 502.3

reactant | Ethyl 4-[1-hydroxy-4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]butyl]-α,α-dimethylbenzeneacetate | 0.5 g | OC(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C34H43NO4
reactant | sodium hydroxide | 3 mL, 0.35 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid | 0.42 g, 89% yield | OC(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C(=O)O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H39NO4
